US04795486
1.7 g of 6-amino-4-methyl-3-methylthio-1,2,4-triazin-5-one are dispersed in 200 ml of methylene chloride, and 1.8 g of 3-chloroperbenzoic acid are added in portions at 15°-20° C. A clear yellow solution is thereby formed and is evaporated at 40° C. in vacuo. The solid residue is treated with ethyl acetate, whereupon the 3-chlorobenzoic acid formed in the reaction dissolves completely. The undissolved pure product is filtered off to give 1.1 g of 6-amino-4-methyl-3-methylsulfinyl-1,2,4-triazin-5-one with a melting point of 189° C. (decomposition).

reactant | 6-amino-4-methyl-3-methylthio-1,2,4-triazin-5-one | 1.7 g | NC=1C(N(C(=NN1)SC)C)=O | C5H8N4OS
reactant | 3-chloroperbenzoic acid | 1.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-amino-4-methyl-3-methylsulfinyl-1,2,4-triazin-5-one | 1.1 g | NC=1C(N(C(=NN1)S(=O)C)C)=O | C5H8N4O2S
